US07968570B2
A mixture of 2,3-dihydro-isoindol-1-one (0.066 g, 0.5 mmol), 1-bromomethyl-2-chloro-benzene (0.123 g, 0.6 mmol), Cs2CO3 (0.408 g, 1.25 mmol), and 18-crown-6 (0.013 g, 0.05 mmol) in acetone (3 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(2-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.035 g, 27%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.28 (s, 2H), 4.94 (s, 2H), 7.16-7.52 (m, 7H), 7.90 (d, 1H).

reactant | 2,3-dihydro-isoindol-1-one | 0.5 mmol, 0.066 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 1-bromomethyl-2-chloro-benzene | 0.6 mmol, 0.123 g | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
reactant | Cs2CO3 | 1.25 mmol, 0.408 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 0.013 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.035 g, 27% | ClC1=C(CN2C(C3=CC=CC=C3C2)=O)C=CC=C1 | C15H12ClNO
